US09359375B2
To a solution of (R)-2-(tert-butoxycarbonylamino)-2-cyclopropylacetic acid (430 mg, 2 mmol) in DMF (6 ml) was added EDC (461 mg, 2.4 mmol) and HOBt. H2O (367 mg, 2.4 mmol) at room temperature, 20 min later, it was added ammonia in MeOH (7N, 0.6 mL, 4 mmol) at room temperature. After stirring for 30 min, it was diluted with water and EtOAc, organic layer was separated and washed with Sat. NaHCO3, brine, dried and concentrated to give (R)-tert-butyl-2-amino-1-cyclopropyl-2-oxoethylcarbamate (330 mg) as crude oil, which was treated with 4N HCl in Dioxane (2 mL). 30 min later, it was concentrated to give (R)-2-amino-2-cyclopropylacetamide hydrochloride salt.

reactant | (R)-2-(tert-butoxycarbonylamino)-2-cyclopropylacetic acid | 2 mmol, 430 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1CC1 | C10H17NO4
reactant | EDC | 2.4 mmol, 461 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
reactant | MeOH | 4 mmol, 7N, 0.6 mL | CO | CH4O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | 2.4 mmol, 367 mg | O | H2O
product | (R)-tert-butyl-2-amino-1-cyclopropyl-2-oxoethylcarbamate | 330 mg | C(C)(C)(C)OC(N[C@@H](C(=O)N)C1CC1)=O | C10H18N2O3
